US04177292
14.4 ml of anhydrous dimethylsulfoxide were added at room temperature to 1.44 g of sodium hydride as a 50% dispersion in oil and the mixture was heated in a bath at 55° C. for one hour and was then cooled to 20° C. 5.13 g of trans 7-dimethylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene-5-ol were added thereto and the mixture was stirred at room temperature for 10 minutes. Then, 4.73 g of p-chloro-nitrobenzene were added thereto all at once and the mixture was stirred at room temperature for 3 hours. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure to obtain 9.5 g of raw product. The latter was extracted with 0.5 N hydrochloric acid and the neutral fraction was extracted twice with 100 ml of ether. The combined aqueous phases were made alkaline with a strong excess of ammonium hydroxide and were extracted with methylene chloride. The organic phase was dried over magnesium sulfate and filtered and the filtrate was evaporated to dryness under reduced pressure to obtain 8.5 g of trans N,N-dimethyl-5-[4-nitrophenoxy]-6,7,8,9-tetrahydro-5H-benzocycloheptene-7-amine. The said product was dissolved in 20 ml of ethyl acetate and an excess of a solution of gaseous hydrogen chloride in ethyl acetate was added thereto. Crystallization was induced and the mixture was held in the refrigerator for 12 hours and was then vacuum filtered. The recovered precipitate was washed with methyl ethyl ketone and was dried at 100° C. under reduced pressure to obtain 5.5 g of the hydrochloride of the trans compound in the form of colorless crystals melting at 192°-196° C.

reactant | sodium hydride | [H-].[Na+]
reactant | trans 7-dimethylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene-5-ol | 5.13 g | CN([C@@H]1C[C@H](C2=C(CC1)C=CC=C2)O)C | C13H19NO
reactant | p-chloro-nitrobenzene | 4.73 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | dimethylsulfoxide | 14.4 ml | CS(=O)C | C2H6OS
product | trans N,N-dimethyl-5-[4-nitrophenoxy]-6,7,8,9-tetrahydro-5H-benzocycloheptene-7-amine | 8.5 g | CN([C@@H]1C[C@H](C2=C(CC1)C=CC=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C | C19H22N2O3
